US08309580B2
3-[methyl({4-[(3-methyl-1-{3-methyl-5-[4-(trifluoromethyl)phenyl]thiophen-2-yl}butyl)amino]phenyl}carbonyl)amino]propanoic acid
A solution of 4-(3-methyl-1-{3-methyl-5-[4-(trifluoromethyl)phenyl]thiophen-2-yl}butoxy)benzoic acid (179 mg), ethyl 3-(methylamino)propanoate (63 mg), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (92 mg), hydroxybenzotriazole monohydrate (74 mg) in N,N-dimethylformamide (10 mL) was stirred at room temperature for 4 hr. Ethyl acetate was added, the mixture was washed with saturated aqueous sodium hydrogen carbonate solution and 1N hydrochloric acid, and the organic layer was dried over magnesium sulfate. The solvent was evaporated under reduced pressure, and the organic layer was dried over magnesium sulfate. The solvent was evaporated under reduced pressure. To the residue were added ethanol (2 mL), tetrahydrofuran (2 mL) and 1N sodium hydroxide (1.0 mL), and the mixture was stirred at room temperature for 1 hr. The reaction mixture was poured into water, and the mixture was acidified with 1N hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure to give the title compound (165 mg, 78%) as an amorphous compound.

reactant | 4-(3-methyl-1-{3-methyl-5-[4-(trifluoromethyl)phenyl]thiophen-2-yl}butoxy)benzoic acid | 179 mg | CC(CC(OC1=CC=C(C(=O)O)C=C1)C=1SC(=CC1C)C1=CC=C(C=C1)C(F)(F)F)C | C24H23F3O3S
reactant | ethyl 3-(methylamino)propanoate | 63 mg | CNCCC(=O)OCC | C6H13NO2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 92 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | hydroxybenzotriazole monohydrate | 74 mg | O.OC1=CC=CC=2NN=NC21
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[methyl({4-[(3-methyl-1-{3-methyl-5-[4-(trifluoromethyl)phenyl]thiophen-2-yl}butyl)amino]phenyl}carbonyl)amino]propanoic acid | 165 mg, 78% | CN(CCC(=O)O)C(=O)C1=CC=C(C=C1)NC(CC(C)C)C=1SC(=CC1C)C1=CC=C(C=C1)C(F)(F)F | C28H31F3N2O3S
